US04105776
To a solution of 3-mercapto-2-methylpropanoic acid (2.4 g.) and freshly distillled 2,3-dihydro-4H-pyrane (1.9 g.) in benzene (60 ml.), boron trifluoride etherate (2.8 g.) is added. After two hours, potassium carbonate (4 g.) is added, the mixture is stirred and filtered. The filtrate is concentrated to dryness to yield 3-(tetrahydropyran-2-ylthio)-2-methylpropanoic acid.

reactant | 3-mercapto-2-methylpropanoic acid | 2.4 g | SCC(C(=O)O)C | C4H8O2S
reactant | 2,3-dihydro-4H-pyrane | 1.9 g | O1CCCC=C1 | C5H8O
reactant | boron trifluoride etherate | 2.8 g | B(F)(F)F.CCOCC
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 3-(tetrahydropyran-2-ylthio)-2-methylpropanoic acid | O1C(CCCC1)SCC(C(=O)O)C | C9H16O3S
